US06329391B1
3-Chloro-2,4-difluorobenzoyl chloride
A quantity of 6.0 g of 3-chloro-2,4-difluorobenzoic acid is suspended in 20 ml of dichloromethane. A quantity of 2.99 ml of oxalyl chloride and 2 drops of DMF are then added. The suspension is stirred at room temperature overnight and the desired product is collected after evaporation of the solvent.

reactant | 3-chloro-2,4-difluorobenzoic acid | 6.0 g | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | oxalyl chloride | 2.99 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-Chloro-2,4-difluorobenzoyl chloride | ClC=1C(=C(C(=O)Cl)C=CC1F)F | C7H2Cl2F2O
